Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
presyncope (feeling faint, acute vision changes, palpitations, 
tightness in his chest)
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F h/o presyncopal episodes the in the last 2 days, 
associated with dyspnea as well as diaphoresis. Patient also 
reports increased shortness of breath on exertion.

Two days prior to admission, the patient was standing in the 
bathroom (no full bladder, not moving bowels) when she 
experienced narrowing of her visual fields, disequilibium (not 
vertiginous without nausea) sudden in onset. This was followed 
by a tightening in the throat, diaphoresis, and heart 
palpaitations. This resolved over the course of ___ minutes 
after she sat down. There was no hearing involvement or loss of 
consciousness. This was witness by her husband, who thought she 
looked pale.

The day prior to admission, she had a second, similar episode 
while standing in the kitchen. This resolved in approximately 15 
minutes. Again, this did not occur after standing from sitting 
nor was there any obvious vagal trigger. She was not exerting 
herself at the time. 

Notably, she is not light-headed when she stands. She has had no 
chest pain whatsoever. She describes one episode of questionable 
DOE recently but has not had more than very mild limitation of 
activity or swelling of the ankles. She denies orthopnea. She 
has no cardiac history. She has no history of anxiety and the 
episodes have not involved any feeling of impending doom/near 
death.

In the ED, initial vs were 97.6 60 192/88 16 98% RA.  Received 
ASA 325, 1L NS, and labs were all unremarkable (CBC, Chem 7, 
troponin-t, CK). EKG as well as initial troponin were negative 
for any acute ischemic disease. Remainder of laboratory work was 
reassuring. Her chest x-ray was normal for any acute 
cardiopulmonary disease. This imaging did reveal a left humeral 
enchondroma.

The patient was high risk according to ___ Syncope Criteria, 
she will be admitted to medicine for further evaluation of 
possible arrhythmia, left ventricular outflow obstruction, ACS, 
or other cardiac etiology. Patient denies any chest pain or 
shortness of breath this time. Hemodynamically stable. Her VS 
prior to admission were 58 156/64 13 98% RA Pain: 0.
 
On arrival to the floor, patient reports feeling at her 
baseline. She reported the above history and was hemodynamically 
stable. 
 
 
Past Medical History:
-Hypertension
-Hyperlipidemia
-Varicose veins
-Bilateral cataract removal
-Laparoscopic gastric bypass (___)
-Hiatal hernia s/p repair
-Broke left arm/hand with crush injury? Surgical intervention 
with external fixation
-Varicose vein stripping (left leg)
 
Social History:
___
Family History:
Brother has history of "heart rhythm irregularities" diagnosed 
as a teenager because of an episode of syncope
Mother deceased at age ___ of uterian cancer
Father deceased at age ___ due to stroke

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98.5 139/69 62 20 97% on RA
GEN Alert, oriented, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg
ABD soft, obese abdomen with normoactive bowel sounds, 
nondistended, nontender with no rubs or gallops, with no obvious 
hernia
EXT WWP 2+ pulses palpable bilaterally, trace pretibial edema 
bilaterally, with many varicose veins scattered across both legs
NEURO Alert, fluent, linear, prompt, CNs2-12 intact save an 
exotropia with positive cover/uncover (no diplopia), motor 
function grossly normal, sensory function intact, no cerebellar 
abnormalities, reflexes 1+ globally, gait deferred.
SKIN no ulcers or lesions

DISCHARGE PHYSICAL EXAM:
afebrile, 100% RA
Laying flat: 160/64 58
Sitting: 160/70 57
Standing: 173/84 ___
GEN Pt is a very pleasant well nourished woman who is alert, 
oriented, and in no acute distress. She is fully conversant, 
speaking full sentences, without becoming short of breath. She 
easily moves from the chair to the bed without assistence or 
changes in breathing.
HEENT NCAT MMM EOMI sclera anicteric, OP clear, permanent 
eyebrow and eyeliner tattoos
NECK supple, no JVD, no LAD
PULM Good aeration, CTAB with scattered wheezes, rales, ronchi
CV RRR normal S1/S2, no mrg
ABD soft, obese abdomen with normoactive bowel sounds, 
nondistended, nontender with no rubs or gallops, with no obvious 
hernia
EXT WWP 2+ pulses palpable bilaterally, trace pretibial edema 
bilaterally, with many varicose veins scattered across both legs
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions 
 
Pertinent Results:
Admission labs:
___ 02:20PM   GLUCOSE-92 UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-100 TOTAL CO2-30 ANION GAP-15
___ 02:20PM   estGFR-Using this
___ 02:20PM   NEUTS-49.8* ___ MONOS-4.5 EOS-4.0 
BASOS-0.8
___ 02:20PM   PLT COUNT-314
___ 07:25AM BLOOD WBC-4.1 RBC-4.82 Hgb-15.0 Hct-44.9 MCV-93 
MCH-31.1 MCHC-33.5 RDW-13.5 Plt ___
___ 07:25AM BLOOD Glucose-95 UreaN-14 Creat-0.8 Na-144 
K-4.1 Cl-101 HCO3-35* AnGap-12
___ 02:01AM BLOOD CK-MB-3 cTropnT-<0.01
___ 02:20PM BLOOD cTropnT-<0.01
___ 02:20PM BLOOD CK(CPK)-181

Imaging:
Chest PA and Lateral (___)
IMPRESSION: 
1.  No acute chest abnormality. 
2.  Chondroid matrix within the left humeral head likely 
represents a benign entity such as enchondroma.  If there is 
pain referable to this region, this could be better evaluated 
with MRI to exclude a more aggressive chondroid lesion. 

Carotid doppler study:
 
Realtime evaluation of the carotid bifurcations shows no 
significant plaque on 
either side.  Peak systolic and end diastolic velocities are 
unremarkable.  
The ICA/CCA ratio is 1.2 on both sides.  The vertebral arteries 
demonstrate 
prograde flow. 
  
IMPRESSION:  Normal bilateral carotid Doppler.  No evidence of 
plaque or 
hemodynamically significant stenosis. 

  
Discharge labs:
___ 07:25AM BLOOD WBC-4.1 RBC-4.82 Hgb-15.0 Hct-44.9 MCV-93 
MCH-31.1 MCHC-33.5 RDW-13.5 Plt ___
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD Glucose-95 UreaN-14 Creat-0.8 Na-144 
K-4.1 Cl-101 HCO3-35* AnGap-12
___ 02:01AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:25AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.___ h/o HTN, HLD, and obesity s/p gastric bypass (___) who p/w 
pre-syncope most consistent with vasovagal. 
 
ACTIVE ISSUES:
# Presyncope: Her episodes have some characteristics of 
vasovagal episodes. She describes prodromal symptoms consistent 
with those preceeding a neurocardiogenic/vasovagal episode, 
including diaphoresis, weakness, transient vision loss, and 
increased heart rate. Episodes occurred while patient was 
standing, not with exercise or time of situational or emotional 
stress, again more consistent with a neurocardiogenic etiology. 
They do not sound like orthostasis by history, nor is she 
orthostatic on exam. Given the lack of symptoms during exertion, 
arrhythmia is less likely although her brother does apparently 
have some form of malignant arrhythmia. Seizure and stroke are 
not on the differential. She has no reason to be hypoglycemic, 
although her episodes do sound somewhat reminiscent of transient 
hypoglycemia. 

The patient was observed overnight during which she was 
asymptomatic and no events recorded on telemetry. Her serial 
troponins were negative with no abnormalities seen on EKG. She 
was discharged with ___ of hearts and will follow up with 
cardiology as an outpatient.

INACTIVE ISSUES:
# HTN: continue ASA, HCTZ
# HLD: continue pravastatin
# GERD: continue omeprazole

TRANSITIONAL ISSUES:
# SYNCOPE: Follow up with cardiology with ___ of Hearts monitor
# ENDOCHRONDROMA: Follow up with PCP given the incidental 
finding of enchondroma on radiographic imaging. Consider 
possible MRI as an outpatient
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Pravastatin 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
hold for sbp < 100 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
hold for sbp < 100 
3. Omeprazole 20 mg PO DAILY 
4. Pravastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: pre-syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ was a pleasure taking care of you.  You were admitted to the 
___ for ___ 
(dizziness, feeling as if will pass out) symptoms prior to your 
presentation. 

Our diagnostic work-up did not reveal any abnormality.  You 
should follow-up with your primary care physician, and we have 
also organized to have you follow-up with a cardiologist. 
 
Followup Instructions:
___